US06809199B2
A solution of 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-7-(hydroxymethyl)-3,4-dihydroquinazolin-2(1H)-one (500 mg, 1.15 mmol), triphenyl phosphine (363 mg, 1.38 mmol) and carbon tetrabromide (459 mg, 1.38 mmol) in acetonitrile (34 mL) was stirred at rt for 24 h. Removal of the solvent and subsequent purification by flash chromatography using 22% acetone/hexane as eluent provided 7-(bromomethyl)-5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-3,4-dihydroquinazolin-2(1H)-one as a white solid. 1H NMR (CDCl3, 500 MHz): δ 4.26 (d, 1H, J=14.7 Hz), 4.35 (abq, 2H, J=10.5 Hz), 4.44 (d, 1H, J=14.6 Hz), 5.01 (s, 1H), 6.18 (s, 1H), 6.96 (s, 1H), 7.30-7.60 (m, 7H). MS (API-ES+): 497 (M+H).

reactant | 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-7-(hydroxymethyl)-3,4-dihydroquinazolin-2(1H)-one | 1.15 mmol, 500 mg | ClC1=C(C=CC=C1)C1=C2CNC(N(C2=CC(=C1)CO)C1=C(C=CC=C1Cl)Cl)=O | C21H15Cl3N2O2
reactant | triphenyl phosphine | 1.38 mmol, 363 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 1.38 mmol, 459 mg | C(Br)(Br)(Br)Br | CBr4
solvent | acetonitrile | 34 mL | C(C)#N | C2H3N
product | 7-(bromomethyl)-5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-3,4-dihydroquinazolin-2(1H)-one | BrCC1=CC(=C2CNC(N(C2=C1)C1=C(C=CC=C1Cl)Cl)=O)C1=C(C=CC=C1)Cl | C21H14BrCl3N2O
